US07354933B2
Preparation of methyl 2-((quinol-4-ylmethyl)amino)propanoate
A mixture of 1.5 g of methyl α-aminoisobutyrate hydrochloride and 1.4 ml of triethylamine in 30 ml of dichloromethane is stirred at 0° C. for 20 minutes. Next, 1 g of magnesium sulfate and 1.5 g of quinoline-4-carbaldehyde are added. Stirring is continued for 15 hours at room temperature and the mixture is then concentrated under reduced pressure. The residue is taken up in 35 ml of methanol and the solution obtained is cooled to 0° C. 0.4 g of sodium borohydride is added portionwise and stirring is continued at room temperature for 15 hours. The precipitate formed is filtered and the filtrate is concentrated under reduced pressure. The residue obtained is purified by recrystallization from diisopropyl ether. 600 mg of the expected product are obtained in the form of a pink oil.

reactant | methyl α-aminoisobutyrate hydrochloride | 1.5 g | Cl.NC(C(=O)OC)(C)C
reactant | magnesium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | quinoline-4-carbaldehyde | 1.5 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | methyl 2-((quinol-4-ylmethyl)amino)propanoate | 600 mg | N1=CC=C(C2=CC=CC=C12)CNC(C(=O)OC)C | C14H16N2O2
